US04704459
In 2 ml of methylene chloride was suspended 70 mg of N-acetylpiperazine monohydrochloride, and 80 mg of triethylamine was added thereto to form a solution. Subsequently, 200 mg of ethyl 1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-7-(2,4,6-triisopropylbenzenesulfonyloxy)-1,8-naphthyridine-3-carboxylate was added thereto, and the resulting mixture was subjected to reaction at room temperature for 2 hours. To the reaction mixture were added 8 ml of methylene chloride and 10 ml of water, and the organic layer was separated, washed successively with 10 ml of water and 10 ml of saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and to the residue thus obtained was added 5 ml of diethyl ether, after which the crystals thus deposited were collected by filtration to obtain 140 mg (yield 93.1%) of ethyl 7-(4-acetyl-1-piperazinyl)-1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate having a melting point of 217°-219° C. The physical properties of this compound were identical with those of the compound obtained in Example 39.

reactant | N-acetylpiperazine monohydrochloride | 70 mg | Cl.C(C)(=O)N1CCNCC1
reactant | triethylamine | 80 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl 1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-7-(2,4,6-triisopropylbenzenesulfonyloxy)-1,8-naphthyridine-3-carboxylate | 200 mg | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(N=C12)OS(=O)(=O)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)F)=O)C(=O)OCC | C32H33F3N2O6S
reactant | water | 10 ml | O | H2O
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
product | ethyl 7-(4-acetyl-1-piperazinyl)-1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate | 140 mg, yield 93.1% | C(C)(=O)N1CCN(CC1)C1=C(C=C2C(C(=CN(C2=N1)C1=C(C=C(C=C1)F)F)C(=O)OCC)=O)F | C23H21F3N4O4
